US06127414
(a) (R)-N5 -(Cbz)-N2 -(diphenylacetyl)-ornithine
1 N NaOH (75 mL) was added to a stirred suspension of (R)-N5 -(Cbz)-ornithine hydrochloride (7.5 g; 25 mmol) in THF (114 mL). Once the starting material had dissolved, diphenylacetyl chloride (6.7 g; 26.3 mmol) was added. The reaction was stirred for 3 h at room temperature, then made acidic with cold 1 N HCl and extracted with EtOAc (3×75 mL). The EtOAc extract was washed with brine, dried with Na2SO4, and concentrated to afford the crude product. Purification by flash chromatography on silica eluting with EtOAc:hexanes (1:1) afforded the sub-title compound (10.5 g; 91%).

reactant | NaOH | 1 N, 75 mL | [OH-].[Na+]
reactant | (R)-N5 -(Cbz)-ornithine hydrochloride | 25 mmol, 7.5 g | Cl.C(=O)(OCC1=CC=CC=C1)NCCC[C@@H](N)C(=O)O
reactant | diphenylacetyl chloride | 26.3 mmol, 6.7 g | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 114 mL | C1CCOC1 | C4H8O
product | (R)-N5 -(Cbz)-N2 -(diphenylacetyl)-ornithine | 10.5 g, 91% | C(=O)(OCC1=CC=CC=C1)NCCC[C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O | C27H28N2O5
